US06221865B1
Step 5: N-[4-(1-benzyltetrazol-5-ylmethyl)-2-(2-methylphenyl)benzoyl]methionine
A 50 mL round-bottom flasks was charged with 4-(1-benzyltetrazol-5-ylmethyl)-2-(2-methylphenyl)benzoic acid (205.1 mg, 0.52 mmol), 1-(3-dimethylaminopropyl-3-ethylcarbodiimide hydrochloride (EDAC) (110.1 mg, 0.0.572 mmol), L-methionine methyl ester hydrochloride (135.0 mg, 0.676 mmol), 1-hydroxybenzotriazole (78.6 mg, 0.572 mmol) and dmf (3 mL). The reagents were stirred until completely dissolved and then triethylamine (0.14 mL, 0.936mmol) was added. The reaction was stirred about 48 h until no starting material was present. Water (2 mL) and EtOAc (2 mL) were added to dissolve the precipitate. The mixture was extracted with EtOAc (3×10 mL). The combined organic layers were washed with 2 M Na2CO3 (10 mL), water (10 mL) and brine (10 mL), dried over MgSO4, filtered and concentrated under vacuum. Yield: 273.0 mg , yellow solid. 1H NMR (δ, CDCl3): 8.0 (2H), 7.0-7.4 (10H), 5.85 (1H), 5.7 (2H), 4.6 (1H), 4.3 (2H), 3.65 (3H), 1.95-2.2 (6H), 1.5-1.9 (4H).

reactant | 4-(1-benzyltetrazol-5-ylmethyl)-2-(2-methylphenyl)benzoic acid | 0.52 mmol, 205.1 mg | C(C1=CC=CC=C1)N1N=NN=C1CC1=CC(=C(C(=O)O)C=C1)C1=C(C=CC=C1)C | C23H20N4O2
reactant | 3-dimethylaminopropyl-3-ethylcarbodiimide hydrochloride | 110.1 mg | Cl.CN(CCCN=C=NCC)C
reactant | L-methionine methyl ester hydrochloride | 0.676 mmol, 135.0 mg | Cl.COC([C@@H](N)CCSC)=O
reactant | 1-hydroxybenzotriazole | 0.572 mmol, 78.6 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.936mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
solvent | Water | 2 mL | O | H2O
product | N-[4-(1-benzyltetrazol-5-ylmethyl)-2-(2-methylphenyl)benzoyl]methionine | C(C1=CC=CC=C1)N1N=NN=C1CC1=CC(=C(C(=O)N[C@@H](CCSC)C(=O)O)C=C1)C1=C(C=CC=C1)C | C28H29N5O3S
